US08058441B2
1-Acetyl-6-(3-[adamantan-1-yl]propionyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Condensation of 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (10 mg) with 3-(adamantan-1-yl)propionic acid (10 mg) under the agency of HATU (25 mg) and N,N-diisopropylethylamine (22 μl) in dichloromethane (1 ml) was performed according to the method described in example 11.

reactant | 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 10 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=CC=C1)(C)C | C20H24N2O
reactant | 3-(adamantan-1-yl)propionic acid | 10 mg | C12(CC3CC(CC(C1)C3)C2)CCC(=O)O | C13H20O2
reactant | HATU | 25 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 22 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 1-Acetyl-6-(3-[adamantan-1-yl]propionyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(CCC12CC3CC(CC(C1)C3)C2)=O)(C)C2=CC=CC=C2)(C)C | C33H42N2O2
